US06359134B1
To a solution of methyl 5-bromo-2-thiophenecarboxylate (884 mg), 4-pyridyl boric acid (500 mg), tetrakistriphenylphosphine palladium(0) (250 mg) in dimethoxyethane (15 ml) was added 2 M sodium carbonate solution (4 ml) and the solution was heated for 15 hours under reflux. The reaction solution was diluted with ethyl acetate and the organic layer was separated, washed with water and extracted with 1 N hydrochloric acid. The extract was made alkaline with sodium hydroxide solution and extracted with ethyl acetate. The extract was dried and concentrated to give pale yellow solid of methyl 5-(4-pyridyl)-2-thiophenecarboxylate (428 mg).

reactant | methyl 5-bromo-2-thiophenecarboxylate | 884 mg | BrC1=CC=C(S1)C(=O)OC | C6H5BrO2S
reactant | 4-pyridyl boric acid | 500 mg | N1=CC=C(C=C1)OB(O)O | C5H6BNO3
reactant | sodium carbonate | 2 M, 4 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane | 15 ml | C(OC)COC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 5-(4-pyridyl)-2-thiophenecarboxylate | 428 mg | N1=CC=C(C=C1)C1=CC=C(S1)C(=O)OC | C11H9NO2S
